US04301066
To a solution of Boc-Ser(But)-Tyr-NHNH2 (3.68 g) in dimethylformamide (84 ml) at -15° C., was added a solution of hydrogen chloride in ethyl acetate (1.7 N, 12.35 ml), followed by t-butyl nitrite (1.17 ml). After stirring at -15° C. for 15 min, the reaction mixture was cooled to -25° C. and adjusted to pH 7 with N-ethyldiisopropylamine (3.95 ml). To this solution at -20° C. was added a solution of the above H-D-Trp-Leu-Arg-Pro-Gly-NH2 trifluoroacetate and N-ethyldiisopropylamine (1.46 ml) in dimethylformamide (27 ml). The reaction mixture was stirred at -15° C. for 60 min, at ice-bath temperature for 60 min and a room temperature for 18 hr. The solvent was evaporated and the residue was dissolved in methanol. Diethyl ether was added and the precipitate was chromatographed on silica gel using chloroform-methanol-32% aqueous acetic acid (15:4:1 v/v). The pure fractions were combined, evaporated and dried to give 5.4 g of Boc-Ser(But)-Tyr-D-Trp-Leu-Arg-Pro-Gly-NH2 ; nmr (DMSO-D6)δ 0.75 (m, 6H), 1.05 (s, 9H) and 1.25 (s, 9H); uv max (methanol) 289 (ε=4546) and 279 nm (ε=5992); amino acid analysis: Gly (1.00), Arg (0.99), Trp (0.44), Ser (0.70), Pro (0.96), Leu (1.39) and Tyr (1.02); and [α]D25 -7.89° (c=1,1% acetic acid).

reactant | Boc-Ser(But)-Tyr-NHNH2 | 3.68 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NN)C(=O)OC(C)(C)C | C21H34N4O6
reactant | hydrogen chloride | Cl | ClH
reactant | t-butyl nitrite | 1.17 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-ethyldiisopropylamine | 3.95 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | H-D-Trp-Leu-Arg-Pro-Gly-NH2 trifluoroacetate | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1.FC(F)(F)C(=O)O
reactant | N-ethyldiisopropylamine | 1.46 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 84 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1.7 N, 12.35 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
product | Boc-Ser(But)-Tyr-D-Trp-Leu-Arg-Pro-Gly-NH2 | 5.4 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C51H76N12O11
